US08076486B2
(2-Fluoro-4-iodo-phenyl)-{4-[5-(2-pyrrolidin-1-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine
3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid N′-(3-pyrrolidin-1-yl-propionyl)-hydrazide (138 mg, 0.27 mmol) was dissolved in DMA (2 mL), and then PS-Triphenyl-phosphane (424 mg, 1.62 mmol, 6 eq) Trichloro-acetonitrile (78 mg, 0.54 mmol, 2eq) and DIEPA (0.19 mL, 1.08 mmol, 4 eq) were added. The reaction mixture was stirred at 100° C. overnight, and then filtered. The filtrate was directly subjected to preparative HPLC to afford 26 mg of the desired product. LC/MS (Method A) [4.20 min; 495(M+1)]

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-isonicotinic acid N′-(3-pyrrolidin-1-yl-propionyl)-hydrazide | 0.27 mmol, 138 mg | N1(CCCC1)CCC(=O)NNC(C1=C(C=NC=C1)NC1=C(C=C(C=C1)I)F)=O | C19H21FIN5O2
reactant | Triphenyl-phosphane | 1.62 mmol, 424 mg, 6 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | (2-Fluoro-4-iodo-phenyl)-{4-[5-(2-pyrrolidin-1-yl-ethylamino)-[1,3,4]oxadiazol-2-yl]-pyridin-3-yl}-amine | 26 mg | FC1=C(C=CC(=C1)I)NC=1C=NC=CC1C=1OC(=NN1)NCCN1CCCC1 | C19H20FIN6O
